US05571821
Acetic anhydride (5 ml) was added to a solution of 1-(2-thienyl)benzyl alcohol in pyridine. The resultant solution was stirred at 70° C. for 3 h. Water (50 ml) was added and the reaction mixture was stirred at room temperature for 2 h. This was extracted with ethyl acetate (2×50 ml) and the combined organic layer dried over anhydrous MgSO4. Removal of the solvent gave crude product, which was purified by passing through silica gel using 3:1 hexane/ethyl acetate mixture to give 1-(2-thienyl)benzyl acetate.

reactant | Acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(2-thienyl)benzyl alcohol | S1C(=CC=C1)C1(CO)CC=CC=C1 | C11H12OS
reactant | Water | 50 ml | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(2-thienyl)benzyl acetate | C(C)(=O)OCC1(CC=CC=C1)C=1SC=CC1 | C13H14O2S
